US06921763B2
N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine was prepared from N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine (1.215 g, 3.831 mmol) in a manner similar to that used for the preparation of N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine. The compound was formed as a tan powder (0.880 g, 63%). RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) Rt=14.48 min, 81%; m/z 365 (MH+).

reactant | N2-(4-bromophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | 3.831 mmol, 1.215 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C | C15H13BrN2O
reactant | N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC=1OC2=C(N1)C=CC=C2 | C19H20BFN2O3
product | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2C)C)C | C21H25BN2O3
